US09238639B2
Ethyl(6-((2-(pyrrolidin-1-yl)-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of ethyl(6-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (90 mg), pyrrolidine (59.6 mg) and DMF (dry) (10 mL) was added K2CO3 (57.9 mg). The mixture was stirred at 80° C. under argon atmosphere overnight. The mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give title compound (46.0 mg).

reactant | ethyl(6-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 90 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)Cl)=O | C19H15ClF3NO3S
reactant | pyrrolidine | 59.6 mg | N1CCCC1 | C4H9N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 57.9 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | Ethyl(6-((2-(pyrrolidin-1-yl)-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 46.0 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)N2CCCC2)=O | C23H23F3N2O3S
